US06011028
2-oxocyclohexaneacetonitrile
Cyclohexanone is reacted with bromoacetonitrile by the method of Example 65 to generate the title compound.

reactant | Cyclohexanone | C1(CCCCC1)=O | C6H10O
reactant | bromoacetonitrile | BrCC#N | C2H2BrN
product | 2-oxocyclohexaneacetonitrile | O=C1C(CCCC1)CC#N | C8H11NO
